US06316477B1
3-(N-Acetoxyamidino)-5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfinylpyrazole (Compound No. 1-12)
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfinyl-3-pyrazolecarboxamide oxime (0.50 g, 1.06 mmol) was dissolved in 8 ml of dichloroethane, and then pyridine (0.10 ml, 1.2 mmol) was added and acetyl chloride (99 mg, 1.26 mmol) dissolved in 2 ml of dichloroethane was added dropwise at room temperature. After the completion of adding dropwise, the mixture was stirred at room temperature for 2 hours and the solvent was distilled off. To the resulting mixture, 50 ml of ethyl acetate was added, then 15 ml of water and 15 ml of an aqueous saturated sodium chloride solution was added. The ethyl acetate layer was taken and washed once with 30 ml of 0.5 N hydrochloric acid, then washed three times with 30 ml of an aqueous saturated sodium chloride solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off to obtain 0.54 g (1.06 mmol) of the title compound as a colorless amorphous. Yield 99%.

reactant | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfinyl-3-pyrazolecarboxamide oxime | 1.06 mmol, 0.50 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(N)=NO)S(=O)C(F)(F)F | C12H7Cl2F6N5O2S
reactant | pyridine | 1.2 mmol, 0.10 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1.26 mmol, 99 mg | C(C)(=O)Cl | C2H3ClO
solvent | dichloroethane | 8 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 2 ml | ClC(C)Cl | C2H4Cl2
product | 3-(N-Acetoxyamidino)-5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfinylpyrazole | 1.06 mmol, 0.54 g, Yield 99% | C(C)(=O)ONC(=N)C1=NN(C(=C1S(=O)C(F)(F)F)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H9Cl2F6N5O3S
